US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-4-(3-nitrobenzyl)-3-oxo-2H-1,4-benzoxazine
The intermediate silyl protected alcohol was prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Method F, alkylating with 3-nitrobenzyl chloride. Deprotection to the indicated product was carried out by method I.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 3-nitrobenzyl chloride | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
product | 3,4-Dihydro-2-(2-hydroxyethyl)-4-(3-nitrobenzyl)-3-oxo-2H-1,4-benzoxazine | OCCC1OC2=C(N(C1=O)CC1=CC(=CC=C1)[N+](=O)[O-])C=CC=C2 | C17H16N2O5
